US05962437
2-Cyclohexenone is reacted with benzylamine to give 3-benzylaminocyclohexanone. Hydrogenolysis of the benzylamino group then gives 3-aminocyclohexanone. Reaction with hexadecanoyl chloride affords 3-hexadecanamidocyclohexanone, which is then reduced with sodium borohydride to produce a cis/trans mixture of 3-hexadecanamidocyclohexanol. Separation by column chromatography then gives the pure isomers. Reaction with bromoethylphosphodichloridate, then with trimethylamine will produce 3-hexadecanamidocyclohexylphosphocholine.

reactant | 3-aminocyclohexanone | NC1CC(CCC1)=O | C6H11NO
reactant | hexadecanoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
product | 3-hexadecanamidocyclohexanone | C(CCCCCCCCCCCCCCC)(=O)NC1CC(CCC1)=O | C22H41NO2
